US07977344B2
Tetrahydro-2H-pyran-3-ylmethyl methanesulfonate
To tetrahydro-2H-pyran-3-ylmethanol (4.92 g) in dry dichloromethane (140 ml) at 0° C. and under nitrogen, was added anhydrous triethylamine (13.6 ml) in one go, followed by mesyl chloride (4.3 ml) dropwise over 5 minutes. The reaction was allowed to warm to room temperature and stirred at this temperature overnight. The reaction was quenched with saturated aqueous sodium bicarbonate (50 ml). The organic layer was separated, passed through a hydrophobic frit to dry and concentrated in vacuo to yield a red oil (8.8 g).

reactant | tetrahydro-2H-pyran-3-ylmethanol | 4.92 g | O1CC(CCC1)CO | C6H12O2
reactant | triethylamine | 13.6 ml | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 4.3 ml | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | dichloromethane | 140 ml | ClCCl | CH2Cl2
product | Tetrahydro-2H-pyran-3-ylmethyl methanesulfonate | 8.8 g | CS(=O)(=O)OCC1COCCC1 | C7H14O4S
